US08071584B2
methyl 5-bromo-3-(4-thiepanyl)-1H-indole-7-carboxylate
To a flask under argon in an ice-bath, the 4-thiepanone (200 mg, 1.536 mmol) in 6 mL of dried CH2Cl2 was first dried w/4 A sieves and then transferred via a double needle tubing (cannula). TMS-OTf (278 uL, 1.536 mmol) was added dropwise and the reaction was stirred for 10 min. A solution of methyl 5-bromo-1H-indole-7-carboxylate (390 mg, 1.536 mmol) in 7 mL of CH2Cl2 was dried with 4 A sieves and then added into above solution dropwise. Stirring continued for 4 hours and the reaction was warmed to room temperature. The mixture was cooled to 0° C. and triethylsilane (245 uL, 1.536 mmol) was added as one portion. The mixture was stirred overnight then warmed to room temperature. The mixture was quenched water and sat. NaHCO3, then diluted water/AcOEt and washed with H2O and brine. 194 mg of crude product was obtained.

reactant | 4-thiepanone | 1.536 mmol, 200 mg | S1CCC(CCC1)=O | C6H10OS
reactant | TMS-OTf | 1.536 mmol, 278 uL | [Si](C)(C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | methyl 5-bromo-1H-indole-7-carboxylate | 1.536 mmol, 390 mg | BrC=1C=C2C=CNC2=C(C1)C(=O)OC | C10H8BrNO2
reactant | triethylsilane | 1.536 mmol, 245 uL | C(C)[SiH](CC)CC | C6H16Si
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
product | methyl 5-bromo-3-(4-thiepanyl)-1H-indole-7-carboxylate | 194 mg | BrC=1C=C2C(=CNC2=C(C1)C(=O)OC)C1CCSCCC1 | C16H18BrNO2S
